US05763450
A suspension of 1.2 g of ethyl 1-ethyl-6,7-difluoro-1,4-dihydro-4-oxo-quinoline-3-carboxylate (European Offenlegungsschrift No. 230053, C.A. 108:112498) in 25 ml of 2N aqueous sodium hydroxide solution is heated at reflux for 4 hrs. After cooling to room temperature the reaction mixture is adjusted to pH 3 to 4 with 37% aqueous hydrochloric acid and the precipitate is filtered off under suction, washed with 200 ml of water and 200 ml of diethyl ether and dried. 980 mg (91%) of 1-ethyl-6-fluoro-7-hydroxy-1,4-dihydro-4-oxo-quinoline-3-carboxylic acid are isolated as a colourless solid. M.p.>250°.

reactant | ethyl 1-ethyl-6,7-difluoro-1,4-dihydro-4-oxo-quinoline-3-carboxylate | 1.2 g | C(C)N1C=C(C(C2=CC(=C(C=C12)F)F)=O)C(=O)OCC | C14H13F2NO3
reactant | hydrochloric acid | Cl | ClH
reactant | sodium hydroxide | 2N, 25 ml | [OH-].[Na+]
product | 1-ethyl-6-fluoro-7-hydroxy-1,4-dihydro-4-oxo-quinoline-3-carboxylic acid | 980 mg, 91% | C(C)N1C=C(C(C2=CC(=C(C=C12)O)F)=O)C(=O)O | C12H10FNO4
